US06878708B2
2-Butyrylaminopropionic Acid
22.27 g (250 mmol) of D,L-alanine and 55.66 g (550 mmol) of triethylamine are dissolved in 250 ml of dichloromethane, and the solution is cooled to 0° C. 59.75 g (550 mmol) of trimethylsilyl chloride are added dropwise, and the solution is stirred at room temperature for 1 hour and at 40° C. for one hour. After cooling to −10° C., 26.64 g (250 mmol) of butyryl chloride are added dropwise, and the resulting mixture is stirred at −10° C. for 2 hours and at room temperature for one hour. With ice-cooling, 125 ml of water are added dropwise, and the reaction mixture is stirred at room temperature for 15 minutes. The aqueous phase is evaporated to dryness, the residue is triturated with acetone and the mother liquor is filtered off with suction. Following removal of the solvent, the residue is chromatographed. The resulting product is dissolved in 3N aqueous sodium hydroxide solution, and the resulting solution is evaporated to dryness. The residue is taken up in conc. HCl and again evaporated to dryness. The residue is triturated with acetone, the precipitated solid is filtered off with suction and the solvent is removed under reduced pressure. This gives 28.2 g (71%) of a viscous oil which crystallizes after some time.

reactant | D,L-alanine | 250 mmol, 22.27 g | NC(C)C(=O)O | C3H7NO2
reactant | triethylamine | 550 mmol, 55.66 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 550 mmol, 59.75 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | butyryl chloride | 250 mmol, 26.64 g | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 125 ml | O | H2O
product | 2-Butyrylaminopropionic Acid | C(CCC)(=O)NC(C(=O)O)C | C7H13NO3
